US04082843
A solution of redistilled acrylonitrile (20 g, 0.375 mole) in dimethylformamide (100 ml) was added dropwise to a stirred solution of 3-acetoxy-2-chlorobenzaldehyde (99.2 g, 0.5 mole) and sodium cyanide (12.25 g, 0.25 mole) in dimethylformamide (250 ml) at 35° C during 30 minutes. The mixture was stirred at 35° C for 4 hours, then poured into twice its own volume of water and the mixture was extracted with chloroform. The washed and dried extract was evaporated to give 3-(3-acetoxy-2-chlorobenzoyl)propionitrile.

reactant | acrylonitrile | 0.375 mole, 20 g | C(C=C)#N | C3H3N
reactant | 3-acetoxy-2-chlorobenzaldehyde | 0.5 mole, 99.2 g | C(C)(=O)OC=1C(=C(C=O)C=CC1)Cl | C9H7ClO3
reactant | sodium cyanide | 0.25 mole, 12.25 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-(3-acetoxy-2-chlorobenzoyl)propionitrile | C(C)(=O)OC=1C(=C(C(=O)CCC#N)C=CC1)Cl | C12H10ClNO3
